US07354932B2
To a suspension of [4-((S)-5,6,7,8-tetrahydro-quinolin-8-ylamino)-trans-cyclohexyl]-carbamic acid tert-butyl ester (1.95 g, 5.64 mmol) in dry acetonitrile (60 mL) was added 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester (1.65 g, 6.20 mmol), diisopropylethylamine (2.0 mL, 11.4 mmol) and potassium iodide (100 mg, 0.60 mmol). The mixture was warmed to 60° C. and stirred for 2 days under nitrogen. The mixture was concentrated, dissolved in methylene chloride (80 mL) and washed with brine (50 mL). The aqueous layer was extracted with methylene chloride (3×50 mL). The combined organic layers were dried (Na2SO4) and concentrated. The crude mixture was purified by column chromatography on silica gel (80 g) with methanol/methylene chloride (4:96) to afford 2-{[(4-tert-butoxycarbonylamino-trans-cyclohexyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester as a white solid (1.82 g, 56%). 1H NMR (CDCl3) δ 1.09 (bs, 2H), 1.43 (s, 9H), 1.68 (s, 9H), 1.83-2.14 (m, 6H), 2.47-2.63 (m, 1H), 2.65-2.79 (m, 1H), 2.79-2.95 (m, 1H), 3.32 (bs, 1H), 4.30 (bs, 2H), 4.46 (s, 2H), 6.75-6.89 (m, 1H), 7.00-7.13 (m, 1H), 7.61-7.70 (m, 1H), 7.70-7.79 (m, 1H), 8.32 (bs, 1H).

reactant | [4-((S)-5,6,7,8-tetrahydro-quinolin-8-ylamino)-trans-cyclohexyl]-carbamic acid tert-butyl ester | 5.64 mmol, 1.95 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N[C@H]1CCCC=2C=CC=NC12)=O | C20H31N3O2
reactant | 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester | 6.20 mmol, 1.65 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | diisopropylethylamine | 11.4 mmol, 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.60 mmol, 100 mg | [I-].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-{[(4-tert-butoxycarbonylamino-trans-cyclohexyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester | 1.82 g, 56% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)[C@@H]2CC[C@H](CC2)NC(=O)OC(C)(C)C | C33H45N5O4
